US05166204
To 7 ml of anhydrous ethanol were added 510 mg of N-benzyl-4-oxocyclohexane-1,2-dicarboximide, 490 mg of concentrated sulfuric acid and 220 mg of phenylhydrazine. The mixture was refluxed for 2 hours and then cooled to room temperature. Thereto were added 30 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 7.5 with an aqueous saturated sodium hydrogencarbonate solution. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: benzene/ethyl acetate =50/1 to 20/1) to obtain two fractions. The first obtained fraction was concentrated to dryness under reduced pressure, and the residue was recrystallized from isopropyl alcohol to obtain 190 mg (yield: 29%) of N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide as colorless needles. The later obtained fraction was concentrated to dryness under reduced pressure to remove the solvent, and the residue was recrystallized from isopropyl alcohol to obtain 120 mg (yield: 18%) of N-benzyl-1,2,3,4-tetrahydrocarbazole-2,3-dicarboximide as colorless needles.

reactant | N-benzyl-4-oxocyclohexane-1,2-dicarboximide | 510 mg | C(C1=CC=CC=C1)N1C(=O)C2C(CC(CC2)=O)C1=O | C15H15NO3
reactant | sulfuric acid | 490 mg | S(O)(O)(=O)=O | H2O4S
reactant | phenylhydrazine | 220 mg | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | N-benzyl-1,2,3,4-tetrahydrocarbazole-3,4-dicarboximide | 190 mg, yield: 29% | C(C1=CC=CC=C1)N1C(=O)C2CCC=3NC4=CC=CC=C4C3C2C1=O | C21H18N2O2
